US06982348B2
N-(1RS,2SR)-(2-(4-fluorophenyl)-2-hydroxy-1-((4-(phenyloxy)phenyl)methyl)ethyl)-3-phenylpropanamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(phenyloxy)phenyl)-1-propanol (550 mg, 1.63 mmol) in ethyl acetate (20 ml) were added 3-phenylpropionyl chloride (360 ml, 2.45 mmol) and saturated aqueous sodium hydrogen carbonate (20 ml) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1) and recrystallized from ethyl acetate-hexane to give the title compound (152 mg, 20%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(phenyloxy)phenyl)-1-propanol | 1.63 mmol, 550 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H20FNO2
reactant | 3-phenylpropionyl chloride | 2.45 mmol, 360 ml | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-(1RS,2SR)-(2-(4-fluorophenyl)-2-hydroxy-1-((4-(phenyloxy)phenyl)methyl)ethyl)-3-phenylpropanamide | 152 mg, 20% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)OC1=CC=CC=C1)NC(CCC1=CC=CC=C1)=O)O | C30H28FNO3
